* sg13g2_IOPadVss

* Split from sg13g2_io.spi on 2026-08-11; contains sg13g2_IOPadVss and its
* 4 supporting subckts. Edit the source netlist, not this file.


* Autogenerated file; please don't edit
* date: 2024-05-27 14:30:57.050559

************************************************************************
*
* Copyright 2024 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************



* sg13g2_GuardRing_N7276W2716HFF
.subckt sg13g2_GuardRing_N7276W2716HFF conn

.ends sg13g2_GuardRing_N7276W2716HFF

* sg13g2_DCNDiode
.subckt sg13g2_DCNDiode anode cathode guard
Xdcdiode[0] anode cathode dantenna l=1.26um w=27.78um
Xdcdiode[1] anode cathode dantenna l=1.26um w=27.78um
Xguard guard sg13g2_GuardRing_N7276W2716HFF
.ends sg13g2_DCNDiode

* sg13g2_GuardRing_P7276W2716HFF
.subckt sg13g2_GuardRing_P7276W2716HFF conn

.ends sg13g2_GuardRing_P7276W2716HFF

* sg13g2_DCPDiode
.subckt sg13g2_DCPDiode anode cathode guard
Xdcdiode[0] anode cathode dpantenna l=1.26um w=27.78um
Xdcdiode[1] anode cathode dpantenna l=1.26um w=27.78um
Xguard guard sg13g2_GuardRing_P7276W2716HFF
.ends sg13g2_DCPDiode

* sg13g2_IOPadVss
.subckt sg13g2_IOPadVss vss vdd iovss iovdd
Xdcndiode iovss vss iovdd sg13g2_DCNDiode
Xdcpdiode vss iovdd iovss sg13g2_DCPDiode
.ends sg13g2_IOPadVss
